Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Valtrex / Keflex / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
___ Syndrome 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with recent diagnosis ___ after exposure to Bactrim, acyclovir, Keflex 
and
ketoconazole cream following a complicated left buttock cyst
drainage currently on high dose prednisone who presents to the 
ED
for planned admission while undergoing prednisone taper.  

The patient states that he recently underwent cyst drainage at
urgent care from his left buttock on ___. After the procedure,
the patient was started on bactrim and went home. The next day,
he noted increased redness, blistering, and tenderness in the
perianal area as well as along the tip of his penis. He returned
to urgent care on ___ where he was prescribed keflex and
prednisone in addition to the bactrim. His symptoms persisted 
and
grew increasingly painful. He saw his PCP who instructed him to
stop the keflex (he already completed the 7day course of 
Bactrim)
and steroids and start valtrex and topical fluconazole
(prescribed ___. His lesions slowly started to improve,
however, this past ___, he developed a diffuse, tender,
erythematous rash on his palms and soles as well as ulcerations
in his mouth and lips. He went to the Emergency Department where
he was diagnosed with SJS and instructed to stop the valtrex and
ketoconazole and continue high dose steroids. He was scheduled
for follow-up with Dermatology today who was concerned about his
symptoms and recommended that he be admitted to medicine for
monitoring while undergoing a prednisone taper. 

The patient currently reports some discomfort with swallowing 
but
denies any fever, blurry or double vision, chest pain, SOB,
cough, N&V, abdominal pain, diarrhea, or dysuria. He has no
respiratory symptoms or ocular involvement. He continues to have
pain along the inner aspect of the left buttocks and under the
foreskin of his penis, however, these lesions are overall
improving. Of note, he was told that he did not need to go to a
burn center during the taper given the mild nature of his SJS 
and
overall clinical stability. 

 
Past Medical History:
-None 
 
Social History:
___
Family History:
Mother and father are overall healthy. No history of autoimmune
or severe allergic reactions in family. 
 
Physical Exam:
Admission Physical Exam
VITAL SIGNS: 98.7PO 153/78  65  16  99%RA   
GENERAL: Well appearing, comfortable  
HEENT: NC/AT, EOMI, PERRL, sclera anicteric. Conjunctiva pink 
and
intact  
NECK:  Supple 
CARDIAC:  RR, no m/r/g
LUNGS:  CTAB no r/r/w
ABDOMEN:  Soft, ND, NTTP, +BS
EXTREMITIES:  WWP, no edema
NEUROLOGIC:  AAOx3, moving all extremities symmetrically and 
with
purpose
SKIN: Has erythematous, macular rash along bilateral palms with
mild erythema of bilateral soles of the feet. Has superficial
ulcerations along the tongue and in the posterior OP. Has minor
ulcerations and  along the inner and outer aspects of the lower
lip. The nares is erythematous but no obvious sloughing. No
ocular involvement. Has erythema and mild sloughing along the
inner aspect of the left buttock surrounding the perianal region
as well as along the tip of the penis under the foreskin. The
left buttock cyst is non-erythematous and packed without obvious
drainage. 

Discharge Physical Exam
___ 0725 Temp: 97.9 PO BP: 118/69 Sitting HR: 64 RR: 18 O2
sat: 97% O2 delivery: Ra  
GENERAL: Well appearing, comfortable  
HEENT: NC/AT, EOMI, PERRL, sclera anicteric. Conjunctiva pink 
and
intact. See skin exam below.
NECK:  Supple 
CARDIAC:  RR, no m/r/g
LUNGS:  CTAB no r/r/w
ABDOMEN:  Soft, ND, NTTP, +BS
EXTREMITIES:  WWP, no edema
NEUROLOGIC:  AAOx3, moving all extremities symmetrically and 
with
purpose
SKIN: Mild confluent erythematous rash on bilateral palms and
mild erythema of bilateral soles of the feet. Has superficial
ulcerations along the left side tongue and in the posterior OP.
Has shallow ulceration on L lateral side of tongue and bottom
central lip. No ocular involvement. Has erythema and mild
sloughing along the inner aspect of the left buttock surrounding
the perianal region as well as along the tip of the penis under
the foreskin without penile meatus involvement. The left buttock
cyst is non-erythematous and packed without obvious drainage.
 
Pertinent Results:
Admission Labs
___ 08:05PM BLOOD WBC-8.3 RBC-5.02 Hgb-16.1 Hct-48.0 MCV-96 
MCH-32.1* MCHC-33.5 RDW-12.0 RDWSD-42.2 Plt ___
___ 08:05PM BLOOD Neuts-77.2* Lymphs-18.1* Monos-4.1* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-6.42* AbsLymp-1.50 
AbsMono-0.34 AbsEos-0.01* AbsBaso-0.03
___ 08:05PM BLOOD ___ PTT-26.0 ___
___ 08:05PM BLOOD Glucose-101* UreaN-8 Creat-0.8 Na-142 
K-5.1 Cl-103 HCO3-25 AnGap-14
___ 07:55AM BLOOD ALT-16 AST-14 AlkPhos-61 TotBili-0.6
___ 08:05PM BLOOD Calcium-9.6 Phos-4.9* Mg-2.4

Discharge Labs
___ 07:55AM BLOOD WBC-9.2 RBC-4.54* Hgb-14.5 Hct-44.0 
MCV-97 MCH-31.9 MCHC-33.0 RDW-12.0 RDWSD-42.8 Plt ___
___ 07:55AM BLOOD Glucose-79 UreaN-9 Creat-0.8 Na-144 K-4.5 
Cl-103 HCO3-30 AnGap-11
___ 07:55AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.2
___ 09:59AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:59AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
PATIENT SUMMARY
========================
Mr. ___ is a ___ year old male with recent diagnosis of 
___ Syndrome in the setting of multiple new 
medications following a left buttocks cyst drainage now admitted 
for monitoring during prednisone taper. 

ACUTE MEDICAL ISSUES ADDRESSED
=========================== 
#Rash
___ Syndrome vs. ___ viral rash:
Patient developed a painful mucocutaneous rash along the 
perianal, penile, oral, nasal and palmar surfaces in the setting 
of recent exposure to Bactrim, acyclovir, Keflex and 
ketoconazole cream concerning for SJS, with the highest index of 
suspicion for Bactrim as the culprit given time course, however, 
unable to rule out the other medications as possible sources. 
His symptoms had already largely improved prior to 
hospitalization but patient was admitted as his outpatient 
dermatologist had concerns about rebound flare when his steroids 
are tapered. Inpatient dermatology evaluated patient and thought 
his presentation was not typical for SJS as there was only 1 
mucous membrane involvement (mouth) and there was no skin 
sloughing. ___ viral rash was also considered for possible 
cause of rash. The patient was discharged on a steroid taper 
plan given the improvement of his symptoms. He was continued on 
PPI while on high dose steroids. The patient had no signs of 
ocular or respiratory manifestation. He received IVF for fluid 
repletion, though he was also eating and drinking well and was 
nontoxic appearing. No abnormalities found in serum chemistry, 
CBC, LFTs, or UA.

# Left Buttocks Cyst: the cyst on the patient's left buttock 
appeared to be healing well without visible drainage.

Code: Full
Contact: ___ ___ 

TRANSITIONAL ISSUES
==================
[] SJS: 
 [] F/u with outpatient dermatologist to ensure resolution of 
his symptoms. No indication for allergy testing as testing is 
too high risk in triggering SJS.
 [] Add Bactrim, sulfa drugs, Keflex, and Valtrex as drug 
allergies in other medical record systems
[] Prednisone taper: 20mg x1 day, 10mg x1 day, 5mg x1 day, then 
d/c
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
Prednisone 20mg po qd
1. Nexium 20 mg Other DAILY 

 
Discharge Medications:
1.  PredniSONE 20 mg PO DAILY 
Take 20 mg x1 day. Then take 10 mg for 1 day. Then take 5 mg for 
1 day. 
Tapered dose - DOWN 
RX *prednisone 5 mg 4 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
2.  Nexium 20 mg Other DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=====================
___ Syndrome

SECONDARY DIAGNOSES
====================
Cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital, because you had 
___ Syndrome, a skin condition/drug reaction to your 
antibiotic medication.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your symptoms were monitored. 
- We looked at your blood counts, serum electrolytes, and liver 
function which were normal.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. 
- You should contact your healthcare provider or report to the 
ED if you have any worsening of your skin rash, new ulcers in 
your mouth or nose, changes to your vision, irritation of your 
eyes, and shortness of breath. 

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___